US07220759B2
In the same manner as in Example 1b (e) and using 3-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile (total amount) and N,N-diethyl-2,3-dimethylbenzamide (4.1 g), 3-{2-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]ethyl}-5-methyl-2H-isoquinolin-1-one (0.47 g) was obtained.

reactant | 3-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile | O[C@@H]1C[C@@H](N(C1)CCC#N)CO | C8H14N2O2
reactant | N,N-diethyl-2,3-dimethylbenzamide | 4.1 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-{2-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]ethyl}-5-methyl-2H-isoquinolin-1-one | 0.47 g | O[C@@H]1C[C@@H](N(C1)CCC=1NC(C2=CC=CC(=C2C1)C)=O)CO | C17H22N2O3
